US04036913
Diphenyl α-aminosulfonylaminobenzylphosphonate
A mixture of equimolar quantities of triphenyl phosphite, benzaldehyde, and sulfamide in chlorobenzene is warmed at 95°-100° C. for 2.5 hrs, and then the reaction mixture is stripped to 120°/0.2mm. The residue is recrystallized from acetonitrile and then from chlorobenzene, giving a white solid: mp 171°-174°; 31P nmr(DMSO-d6) -14.4(d, J = 25Hz); 1H nmr δ8.2(d of d, 1, J = 2 and 10Hz, NH), 6.9-7.6(m, 15, aryl), 6.7 (s, 2, NH2), 5.2(d of d, 1, J = 10 and 26, CH).

reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sulfamide | S(=O)(=O)(N)N | H4N2O2S
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | Diphenyl α-aminosulfonylaminobenzylphosphonate | NS(=O)(=O)NC(C1=CC=CC=C1)P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C19H19N2O5PS
